US06579879B2
To a mixture of 4-chloro-2-iodo phenol (5.11 mmol, 1.3 g) in DMF (40 mL) and potassium carbonate (10 mmol, 1.4 g) was added crotyl bromide (10.2 mmol, 1.6 g) and the reaction mixture was stirred at room temperature for one hour. The reaction was quenched with H2O (100 mL) and extracted with EtOAc (2×50 mL). The EtOAc layer was collected, dried, filtered and the filtrate was evaporated to obtain 4-chloro-2-iodo O-crotyl phenol (94%, 1.5 g).

reactant | 4-chloro-2-iodo phenol | 5.11 mmol, 1.3 g | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | crotyl bromide | 10.2 mmol, 1.6 g | C(C=CC)Br | C4H7Br
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-iodo O-crotyl phenol | 1.5 g, 94% | ClC1=CC(=C(C=C1)OCC=CC)I | C10H10ClIO
